US04472381
Diethyl phosphite (27.64 g, 200 m mole) was dissolved in DMF (200 ml), and to the solution at nitrogen atmosphere while stirring and -15° C., sodium hydride (60% in oil, 9.6 g, 220 m mole) was added. The mixture was stirred for 1 hour at not more than 0° C. To the solution phenethyl bromide (37.0 g, 200 m mole) was dropwise added and further the mixture was stirred overnight at room temperature. The DMF solution was distilled under reduced pressure leaving a residue, and the residue was dissolved in ethyl acetate. The ethyl acetate solution was washed with water, and dried with anhydrous sodium sulfate. The solvent was evaporated and the thus obtained oily product was distilled under reduced pressure to obtain diethylphenethylphosphonate (25.0 g, yield: 51.6%) of boiling point 136.5°~137.5° C./3 mmHg.

reactant | Diethyl phosphite | 27.64 g | P(OCC)(OCC)[O-]
reactant | sodium hydride | 9.6 g | [H-].[Na+]
reactant | phenethyl bromide | 37.0 g | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | diethylphenethylphosphonate | 25.0 g, yield: 51.6% | C(C)OP(OCC)(=O)CCC1=CC=CC=C1 | C12H19O3P
